US05559230
To 3-ethoxycarbonyl-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.6 g) are added an aqueous solution of sodium hydroxide (0.1 g) in water (1 ml) and ethanol (5 ml). The mixture is stirred at room temperature for 15 minutes, and acidified with diluted hydrochloric acid, extracted with dichloromethane. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane→dichloromethane:methanol=50:1), and recrystallized from ethanol to give 3-carboxy-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.4 g) as white powder, m.p. 221°-223° C.

reactant | 3-ethoxycarbonyl-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.6 g | C(C)OC(=O)C1CN(C2=CC=CC=C2C1)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C26H22Cl2N2O4
reactant | sodium hydroxide | 0.1 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-carboxy-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.4 g | C(=O)(O)C1CN(C2=CC=CC=C2C1)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C24H18Cl2N2O4
